US04638094
Phenylacetone was prepared in the same manner as in Example 1, except that n-butyl nitrite and n-butyl alcohol were used in lieu of methyl nitrite and methyl alcohol and that the reaction temperature was changed to 55° C.

reactant | n-butyl nitrite | N(=O)OCCCC | C4H9NO2
reactant | n-butyl alcohol | C(CCC)O | C4H10O
reactant | methyl nitrite | N(=O)OC | CH3NO2
solvent | methyl alcohol | CO | CH4O
product | Phenylacetone | C1(=CC=CC=C1)CC(C)=O | C9H10O
